US06136995
Synthesis of (tetramethylcyclopentadienyl)dimethylchlorosilane
Into a two-necked round-bottomed flask, the atmosphere in which was replaced with nitrogen, were charged 30 g of tetrahydrofuran and 1.10 g of tetramethylcyclopentadiene. The mixture was cooled to 0° C. with stirring and 4.90 ml of n-butyl lithium (1.6M solution in n-hexane) (7.84 mmol as n-butyl lithium) was gradually added dropwise thereto over 20 minutes. The obtained reaction mixture in the form of a white slurry was stirred further for at 0° C. for 3 hours, and added to a pre-cooled mixed solution of tetrahydrofuran (10 g) and n-hexane (10 g) containing 1.01 g (7.84 mmol) of dichlorodimethylsilane in several divided portions over 15 minutes. The mixture was then gradually heated to room temperature.

reactant | tetrahydrofuran | 30 g | O1CCCC1 | C4H8O
reactant | tetramethylcyclopentadiene | 1.10 g | CC1=C(C(=C(C1)C)C)C | C9H14
reactant | n-butyl lithium | 7.84 mmol, 1.6M, 4.90 ml | C(CCC)[Li]
reactant | tetrahydrofuran | 10 g | O1CCCC1 | C4H8O
reactant | dichlorodimethylsilane | 7.84 mmol, 1.01 g | Cl[Si](C)(C)Cl | C2H6Cl2Si
solvent | n-hexane | 10 g | CCCCCC | C6H14
product | (tetramethylcyclopentadienyl)dimethylchlorosilane | CC=1C(=C(C(C1)(C)[Si](Cl)(C)C)C)C | C11H19ClSi
